US04413096
Ethylene/Vinyl 1,2,2,6,6-Pentamethylpiperidine-4-carboxylate Copolymer
The above-named copolymer is prepared by the general procedure of Example 1 by substituting for the 2,2,6,6-tetramethylpiperidin-4-ol an equivalent amount of methyl 1,2,2,6,6-pentamethylpiperidine-4-carboxylate and reacting with an ethylene/vinyl acetate copolymer (75/25).

reactant | 2,2,6,6-tetramethylpiperidin-4-ol | CC1(NC(CC(C1)O)(C)C)C | C9H19NO
reactant | methyl 1,2,2,6,6-pentamethylpiperidine-4-carboxylate | CN1C(CC(CC1(C)C)C(=O)OC)(C)C | C12H23NO2
product | Ethylene Vinyl 1,2,2,6,6-Pentamethylpiperidine-4-carboxylate | C=C.CN1C(CC(CC1(C)C)C(=O)OC=C)(C)C | InChI=1S/C13H23NO2.C2H4/c1-7-16-11(15)10-8-12(2,3)14(6)13(4,5)9-10;1-2/h7,10H,1,8-9H2,2-6H3;1-2H2
